US08445501B2
4-(5-Cyclopropylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid ((S)-1-acetyl-piperidin-3-yl)-amide
Starting from 4-(5-Cyclopropylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (S)-piperidin-3-ylamide (example A148) and acetyl chloride the title compound is obtained as colorless solid.

reactant | 4-(5-Cyclopropylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (S)-piperidin-3-ylamide | N1C[C@H](CCC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCC1CC1 | C23H25N5O4
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 4-(5-Cyclopropylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid ((S)-1-acetyl-piperidin-3-yl)-amide | C(C)(=O)N1C[C@H](CCC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCC1CC1 | C25H27N5O5
